US08623911B2
To 4.0 mL fuming HNO3 at −45° C. was added 3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol (497 mg, 3.4 mmol) in small portions while maintaining the reaction temperature between −40 to −45° C. Once the addition was complete the resulting solution was allowed to stir at −45° C. for an additional 10 min before poured into crushed ice (20 g). The ice mixture was allowed to warm up to room temperature gradually and the precipitate was collected by filtration and washed with H2O to give 7-nitro-3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol as a white powder. 1H NMR (acetone) δ: 8.51 (d, J=2.5 Hz, 1H), 8.24 (dd, J=8.3, 2.6 Hz, 1H), 7.75 (s, 1H), 7.50 (d, J=8.4 Hz, 1H), 4.19 (t, J=6.0 Hz, 2H), 3.07 (t, J=6.0 Hz, 2H). Amount obtained: 286 mg, 44% yield.

reactant | HNO3 | 4.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol | 3.4 mmol, 497 mg | B1(OCCC2=C1C=CC=C2)O | C8H9BO2
product | 7-nitro-3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol | 44% yield | [N+](=O)([O-])C=1C=CC2=C(B(OCC2)O)C1 | C8H8BNO4
